US04721791
A stirred mixture of 3,4-dichlorobenzyl chloride (12.6 g, 64.5 mmol) and sodium azide (7.0 g, 0.11 mole) in absolute ethanol (70 ml) was refluxed for 4.75 hours, cooled and filtered to provide a solution of 3,4-dichlorobenzyl azide. Separately, 2-cyanoacetamide (5.5 g, 65 mmol) was added to a 35° C. solution of sodium (1.5 g, 65 mmol) in absolute ethanol (125 ml), and to the resulting suspension was added the above azide solution dropwise over 10 minutes. The combined mixtures were refluxed for 1 hour, kept 16 hours at ambient temperature and 1 hour at 5° C., and filtered. The crude product was dried under vacuum, dissolved in boiling ethanol (290 ml), filtered hot, and cooled to 0° C. The solid was collected by filtration and dried under vacuum to provide 12.4 g (67%) of 1-(3,4-dichlorobenzyl)-5-amino-1,2,3-triazole-4-carboxamide, m.p. 221°-222° C.

reactant | 3,4-dichlorobenzyl chloride | 64.5 mmol, 12.6 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | sodium azide | 0.11 mole, 7.0 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 3,4-dichlorobenzyl azide | ClC=1C=C(CN=[N+]=[N-])C=CC1Cl | C7H5Cl2N3
